Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[c:8]([NH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[cH:16]1.[CH2:20]1[CH2:21][NH:22][CH2:17][CH2:18][NH:19]1>>[c:1]1([N:19]2[CH2:18][CH2:17][NH:22][CH2:21][CH2:20]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[c:8]([NH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[cH:16]1,[Br:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[c:8]([NH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[cH:16]1.[CH2:17]1[CH2:18][NH:19][CH2:20][CH2:21][NH:22]1>>[c:1]1([N:19]2[CH2:18][CH2:17][NH:22][CH2:21][CH2:20]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[c:8]([NH:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[cH:16]1,SNAr(para),"[(19, 1), ([1, 16], [16, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 16], [16, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH2:2][O:3][CH3:4])=[O:5].[CH3:6][c:7]1[cH:8][cH:9][c:10]([C:11](=[O:12])[N:13]2[CH2:14][CH2:15][CH:16]([c:17]3[cH:18][cH:19][c:20]([C:21]#[N:22])[cH:23][cH:24]3)[CH2:25][CH2:26]2)[cH:27][c:28]1[NH:29][S:30](=[O:31])(=[O:32])[CH2:33][CH2:34][NH2:35]>>[C:1]([CH2:2][O:3][CH3:4])(=[O:5])[NH:35][CH2:34][CH2:33][S:30]([NH:29][c:28]1[c:7]([CH3:6])[cH:8][cH:9][c:10]([C:11](=[O:12])[N:13]2[CH2:14][CH2:15][CH:16]([c:17]3[cH:18][cH:19][c:20]([C:21]#[N:22])[cH:23][cH:24]3)[CH2:25][CH2:26]2)[cH:27]1)(=[O:31])=[O:32],[CH3:6][c:7]1[cH:8][cH:9][c:10]([C:11](=[O:12])[N:13]2[CH2:14][CH2:15][CH:16]([c:17]3[cH:18][cH:19][c:20]([C:21]#[N:22])[cH:23][cH:24]3)[CH2:25][CH2:26]2)[cH:27][c:28]1[NH:29][S:30](=[O:31])(=[O:32])[CH2:33][CH2:34][NH2:35].[Cl:101][C:1]([CH2:2][O:3][CH3:4])=[O:5]>>[C:1]([CH2:2][O:3][CH3:4])(=[O:5])[NH:35][CH2:34][CH2:33][S:30]([NH:29][c:28]1[c:7]([CH3:6])[cH:8][cH:9][c:10]([C:11](=[O:12])[N:13]2[CH2:14][CH2:15][CH:16]([c:17]3[cH:18][cH:19][c:20]([C:21]#[N:22])[cH:23][cH:24]3)[CH2:25][CH2:26]2)[cH:27]1)(=[O:31])=[O:32],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(35, 1), ([1, 5], 5), (5, [5, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]1[N:2]([c:3]2[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]#[N:10])[cH:11][cH:12]2)[C:13](=[O:14])[N:15]2[C@H:16]1[C@H:17]([OH:18])[CH2:19][CH2:20]2>>[CH2:1]1[N:2]([c:3]2[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]#[N:10])[cH:11][cH:12]2)[C:13](=[O:14])[N:15]2[C@H:16]1[C@H:17]([OH:18])[CH2:19][CH2:20]2,[O:101]=[C:1]1[N:2]([c:3]2[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]#[N:10])[cH:11][cH:12]2)[C:13](=[O:14])[N:15]2[C@H:16]1[C@H:17]([OH:18])[CH2:19][CH2:20]2.[AlH4-:301].[AlH4-:302]>>[CH2:1]1[N:2]([c:3]2[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]#[N:10])[cH:11][cH:12]2)[C:13](=[O:14])[N:15]2[C@H:16]1[C@H:17]([OH:18])[CH2:19][CH2:20]2,amide_reduction,"[([301, 301.1], 1), ([1, 101], 301), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][C:2]([C:3]([O:4][CH3:5])=[O:6])([CH3:7])[CH3:8].[CH3:9][CH2:10][c:11]1[cH:12][c:13]([OH:14])[cH:15][cH:16][c:17]1[Cl:18]>>[CH2:1]([C:2]([C:3]([O:4][CH3:5])=[O:6])([CH3:7])[CH3:8])[O:14][c:13]1[cH:12][c:11]([CH2:10][CH3:9])[c:17]([Cl:18])[cH:16][cH:15]1,[CH3:9][CH2:10][c:11]1[cH:12][c:13]([OH:14])[cH:15][cH:16][c:17]1[Cl:18].[OH:101][CH2:1][C:2]([C:3]([O:4][CH3:5])=[O:6])([CH3:7])[CH3:8].c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([C:2]([C:3]([O:4][CH3:5])=[O:6])([CH3:7])[CH3:8])[O:14][c:13]1[cH:12][c:11]([CH2:10][CH3:9])[c:17]([Cl:18])[cH:16][cH:15]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 14.1), ([14.1, 14], 14), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (14, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
